US04298529
Trifluoroacetic anhydride (6.8 ml.) and triethylamine (4.2 ml.) were added to a solution of 7-(3-ethoxycarbonylhydrazono-2-methoxyiminobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 4.3 g.) in dry tetrahydrofuran (215 ml.) under ice cooling and stirred at the same temperature for an hour. To the resultant solution were added ethyl acetate (200 ml.) and a sodium chloride saturated aqueous solution (100 ml.), and adjusted to pH 2.0 with 6 N hydrochloric acid. After separating the organic layer, the aqueous layer was extracted with ethyl acetate (100 ml.). The organic layer and the extract were combined; washed with a sodium chloride saturated aqueous solution and dried over magnesium sulfate. The solution was evaporated in vacuo, and diisopropyl ether (50 ml.) was added to the residue. The precipitates were collected by filtration and washed with diisopropyl ether to give 7-(3-ethoxycarbonylhydrazono-2-methoxyiminobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 3.85 g.).

reactant | Trifluoroacetic anhydride | 6.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 7-(3-ethoxycarbonylhydrazono-2-methoxyiminobutyramido)-3-hydroxycepham-4-carboxylic acid | 4.3 g | C(C)OC(=O)NN=C(C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)=NOC)C | C15H21N5O8S
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | tetrahydrofuran | 215 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
product | 7-(3-ethoxycarbonylhydrazono-2-methoxyiminobutyramido)-3-cephem-4-carboxylic acid | 3.85 g | C(C)OC(=O)NN=C(C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC)C | C15H19N5O7S
